US07838612B2
Inside the glove box, a 100 mL round-bottom flask equipped with a reflux condenser, stirring bar, and septum was charged with 4′-bromo-biphenyl-4-sulfonyl chloride (6.63 g, 20 mmol), octafluorobutane-1,4-disulfonamide (3.60 g, 10 mmol), and acetonitrile (40 mL). Triethylamine (6 mL, 40 mmol) was added slowly by syringe. The solution was heated to a reflux overnight. The solution was cooled to room temperature, poured into an aqueous solution (150 mL) of 20% sodium hydroxide, and chilled in an ice bath to induce precipitation. The precipitate was collected by vacuum filtration dried under vacuum to give 9.86 g (99% yield). The solids were recrystallized by dissolving in water at a reflux, treating with decolorizing carbon, filtering the solution, and concentrating the solution at a reflux to 200 mL to induce crystallization. The white crystals were collected by vacuum filtration, washed with water, and dried overnight in a vacuum oven at 100° C. followed by 170° C. under a nitrogen purge to give 8.80 g (89% yield) of N,N′-bis(4′-bromo-biphenyl-4-sulfonyl)-octafluorobutane-1,4-disulfonamide, disodium salt, shown below. 1H NMR (DMSO-d6): 7.67 (bm, 4H), 7.78 (d, J=8 Hz, 2H), 7.84 (d, J=8 Hz, 2H). 19F NMR (DMSO-d6): -120.36 (m, —CF2—CF2—), −113.06 (m, 2 —CF2-SO2—).

reactant | 4′-bromo-biphenyl-4-sulfonyl chloride | 20 mmol, 6.63 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H8BrClO2S
reactant | octafluorobutane-1,4-disulfonamide | 10 mmol, 3.60 g | FC(C(C(C(S(=O)(=O)N)(F)F)(F)F)(F)F)(S(=O)(=O)N)F | C4H4F8N2O4S2
reactant | Triethylamine | 40 mmol, 6 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 150 mL | [OH-].[Na+]
reactant | disodium | [Na][Na] | 2Na
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | N,N′-bis(4′-bromo-biphenyl-4-sulfonyl)-octafluorobutane-1,4-disulfonamide | 8.80 g, 89% yield | BrC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)NS(=O)(=O)C(C(C(C(S(=O)(=O)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)Br)(F)F)(F)F)(F)F)(F)F | C28H18Br2F8N2O8S4
